US05252586
Sodium hydride (0.912 g, 23 mmol, 60% oil disp.) which had been rinsed with hexanes (3×10 mL), and dry N,N-dimethylformamide (50 mL) were cooled to 0° C. with stirring under a nitrogen atmosphere. A solution of 1-t-butyloxycarbonyl-4-hydroxyethylpiperidine (4.3 g, 19 mmol) in dry DMF (15 mL) was added, and the mixture stirred for 1 hour. 3-Phenylpropargyl chloride (2.8 g, 19 mmol) was added, and the mixture was heated to reflux for 24 hours. After cooling, the solvent was removed by distillation under reduced pressure. The residue was dissolved in ethyl acetate and extracted with water (3×100 mL), brine (100 mL), dried (MgSO4), filtered, and concentrated under reduced pressure. The crude product was purified by chromatography on silica gel, eluting with 5% ethyl acetate in hexanes, and concentrated under reduced pressure to yield 1-t-butyloxycarbonyl-4-[(3-phenyl-2-propynyloxy)ethyl]piperidine (1.02 g, 16%) as a dark oil. 1H NMR (300 MHz, CDCl3 /TMS, δ): 7.5(m,2H), 7.3(m,3H), 4.4(s,2H), 4.1(m,2H), 3.6(t,2H), 2.7(br t,2H), 1.8-1.1(m,16H). MSCI: 344 (MH+, base).

reactant | Sodium hydride | 23 mmol, 0.912 g | [H-].[Na+]
reactant | 1-t-butyloxycarbonyl-4-hydroxyethylpiperidine | 19 mmol, 4.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
reactant | 3-Phenylpropargyl chloride | 19 mmol, 2.8 g | C1=CC=C(C=C1)C#CCCl | C9H7Cl
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-t-butyloxycarbonyl-4-[(3-phenyl-2-propynyloxy)ethyl]piperidine | 1.02 g, 16% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOCC#CC1=CC=CC=C1 | C21H29NO3
